US07238808B2
4-(3-Bromo-benzenesulfonyl)-morpholine
Prepared by general procedure III from 3-bromobenzenesulfonyl chloride (5.0 g, 20 mmol) and morpholine (1.89 g, 22 mmol) to give the title compound (5.9 g, 98%) as a white solid. MS (ISP) 306.1 [(M+H)+].

reactant | 3-bromobenzenesulfonyl chloride | 20 mmol, 5.0 g | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | morpholine | 22 mmol, 1.89 g | N1CCOCC1 | C4H9NO
product | 4-(3-Bromo-benzenesulfonyl)-morpholine | 5.9 g, 98% | BrC=1C=C(C=CC1)S(=O)(=O)N1CCOCC1 | C10H12BrNO3S
